US07091215B2
N-[2-Ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(1-ethylpropyl)amine
To a solution of 2-ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-amine (100 mg) in acetic acid (10 mL) there was added 3-pentanone (0.04 mL), and then sodium triacetoxyborohydride (85.0 mg) was slowly added at room temperature and the mixture was stirred for 3 hours. A 5 N aqueous sodium hydroxide solution was added while cooling on ice, and then extraction was performed with ethyl acetate, the organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was subjected to silica gel column chromatography (10 g), and the title compound (69 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as yellow crystals.

reactant | 2-ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-amine | 100 mg | C(C)C1=NN2C(C(=CC=C2C2=C(C=C(C=C2C)C)OC)OC)=C1N | C19H23N3O2
reactant | 3-pentanone | 0.04 mL | CCC(CC)=O | C5H10O
reactant | sodium triacetoxyborohydride | 85.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-[2-Ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(1-ethylpropyl)amine | 69 mg | C(C)C1=NN2C(C(=CC=C2C2=C(C=C(C=C2C)C)OC)OC)=C1NC(CC)CC | C24H33N3O2
